US08633211B2
Intermediate C 2-Bromo-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide
A cooled (0° C.) solution of 5-chloro-2,4-dimethoxyaniline (5 g) in DCM under an atmosphere of argon is treated dropwise with bromoacetyl bromide (2.4 ml). After 5 minutes, TEA (7.5 ml) is added dropwise and after stirring for 20 minutes the reaction mixture is diluted with water and extracted with DCM). The organic phase is washed with distilled water, dried over Na2SO4, filtered and evaporated to give a beige solid. This is purified by flash column chromatography on silica, eluting with 20-100% n-hexane in DCM to afford the title compound. [M+H]+ 308.

reactant | 5-chloro-2,4-dimethoxyaniline | 5 g | ClC=1C(=CC(=C(N)C1)OC)OC | C8H10ClNO2
reactant | bromoacetyl bromide | 2.4 ml | BrCC(=O)Br | C2H2Br2O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-Bromo-N-(5-chloro-2,4-dimethoxy-phenyl)-acetamide | BrCC(=O)NC1=C(C=C(C(=C1)Cl)OC)OC | C10H11BrClNO3
